US04000142
By the method described in Example 11 using di-isopropylamine (4.9 ml 0.034 mol) in benzene (50 ml), n-butyl lithium solution (9% w/v, 25 ml, 0.034 mol), 3,4-dimethyl-5,6,7,8-tetrahydroquinoline (5.65g, 0.034 mol) and trimethylsilyl isothiocyanate (4.9 ml, 0.038 mol) was obtained 3,4-dimethyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide (0.4 g, 5%) m.p. 163-5° C.

reactant | di-isopropylamine | 0.034 mol, 4.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.034 mol, 25 ml | C(CCC)[Li]
reactant | 3,4-dimethyl-5,6,7,8-tetrahydroquinoline | 0.034 mol, 5.65g | CC=1C=NC=2CCCCC2C1C | C11H15N
reactant | trimethylsilyl isothiocyanate | 0.038 mol, 4.9 ml | C[Si](C)(C)N=C=S | C4H9NSSi
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3,4-dimethyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | 0.4 g, 5% | CC=1C=NC=2C(CCCC2C1C)C(N)=S | C12H16N2S
